.SUBCKT gf180mcu_fd_sc_mcu9t5v0__nor3_4 A1 A2 A3 ZN VDD VDD VSS VSS
*.PININFO A1:I A2:I A3:I ZN:O VDD:P VDD:P VSS:P VSS:G
*.EQN ZN=!((A1 + A2) + A3)
M_i_1_3 ZN A2 VSS VSS nmos_6p0 W=0.790000U L=0.600000U
M_i_2_0 VSS A3 ZN VSS nmos_6p0 W=0.790000U L=0.600000U
M_i_2_1 ZN A3 VSS VSS nmos_6p0 W=0.790000U L=0.600000U
M_i_1_2 VSS A2 ZN VSS nmos_6p0 W=0.790000U L=0.600000U
M_i_1_1 ZN A2 VSS VSS nmos_6p0 W=0.790000U L=0.600000U
M_i_2_2 VSS A3 ZN VSS nmos_6p0 W=0.790000U L=0.600000U
M_i_2_3 ZN A3 VSS VSS nmos_6p0 W=0.790000U L=0.600000U
M_i_1_0 VSS A2 ZN VSS nmos_6p0 W=0.790000U L=0.600000U
M_i_0_3 ZN A1 VSS VSS nmos_6p0 W=0.790000U L=0.600000U
M_i_0_2 VSS A1 ZN VSS nmos_6p0 W=0.790000U L=0.600000U
M_i_0_1 ZN A1 VSS VSS nmos_6p0 W=0.790000U L=0.600000U
M_i_0_0 VSS A1 ZN VSS nmos_6p0 W=0.790000U L=0.600000U
M_i_4_3 net_1_3 A2 net_0 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_5_0 VDD A3 net_1_3 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_5_1 net_1_2 A3 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_4_2 net_0 A2 net_1_2 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_4_1 net_1_1 A2 net_0 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_5_2 VDD A3 net_1_1 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_5_3 net_1_0 A3 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_4_0 net_0_0 A2 net_1_0 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_3_3 ZN A1 net_0_0 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_3_2 net_0 A1 ZN VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_3_1 ZN A1 net_0 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_3_0 net_0 A1 ZN VDD pmos_6p0 W=1.830000U L=0.500000U
.ENDS
